US09120749B2
1-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(piperazin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)ethanone dihydrochloride
To a solution of tert-butyl 4-((trans-4-((3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate (66 mg, 0.10 mmol) in THF (5 mL) was added water (5 mL) and aqueous 6 N HCl (1.0 mL). The reaction mixture was heated at 65° C. for 2 h, cooled to room temperature and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was dissolved in methanol (5 mL) and HCl (6 M in water, 0.5 mL, 3 mmol) was added. The resultant solution was concentrated to give the desired product (24.2 mg, 41%) as an off-white solid. 1H NMR (500 MHz, MeOD) δ 9.10 (s, 1H), 8.48 (s, 1H), 8.27 (dd, J=8.7, 1.7 Hz, 1H), 7.98 (d, J=8.7 Hz, 1H), 7.59 (s, 1H), 7.52 (d, J=11.3 Hz, 1H), 4.57-4.53 (br s, 1H), 3.67 (br s, 4H), 3.50 (br s, 2H), 3.17 (br s, 2H), 2.74 (s, 3H), 2.46 (d, J=11.9 Hz, 2H), 2.18 (d, J=12.5 Hz, 2H), 2.10 (br s, 1H), 1.83-1.77 (m, 2H), 1.41-1.34 (m, 2H). ESI MS m/z 511 [C28H32ClFN4O2+H]+; HPLC 98.3% (AUC), tR=9.38 min.

reactant | tert-butyl 4-((trans-4-((3-acetyl-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)methyl)piperazine-1-carboxylate | 0.10 mmol, 66 mg | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)O)Cl | C33H40ClFN4O4
reactant | water | 5 mL | O | H2O
reactant | HCl | 6 N, 1.0 mL | Cl | ClH
reactant | HCl | 3 mmol, 6 M, 0.5 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-(piperazin-1-ylmethyl)cyclohexyl)amino)quinolin-3-yl)ethanone dihydrochloride | 24.2 mg, 41% | Cl.Cl.ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)CN1CCNCC1 | InChI=1S/C28H32ClFN4O2.2ClH/c1-17(35)23-15-32-26-7-4-19(20-13-24(29)28(36)25(30)14-20)12-22(26)27(23)33-21-5-2-18(3-6-21)16-34-10-8-31-9-11-34;;/h4,7,12-15,18,21,31,36H,2-3,5-6,8-11,16H2,1H3,(H,32,33);2*1H/t18-,21-;;
